US06391874B1
2-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-3-methyl-3H-imidazol-4-carbaldehyde
(4-Benzyloxy-phenyl)-(6-(4-(1,3-dioxolan-2-yl)-3-methyl-3H-imidazol-2-yl)-quinazolin-4-yl)-amine (0.06 g) was treated with acetone (5 ml) and 2N HCl at reflux for 2 hours. The mixture was cooled, partitioned between ethyl acetate and 2N sodium carbonate. The organic phase was dried and concentrated in vacuo to give the title compound which was used directly in any subsequent synthetic step; m/z (M+1)+ 436.

reactant | (4-Benzyloxy-phenyl)-(6-(4-(1,3-dioxolan-2-yl)-3-methyl-3H-imidazol-2-yl)-quinazolin-4-yl)-amine | 0.06 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=NC=C(N1C)C1OCCO1 | C28H25N5O3
reactant | HCl | 2N | Cl | ClH
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 2-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-3-methyl-3H-imidazol-4-carbaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=NC=C(N1C)C=O | C26H21N5O2
